datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10]C([H])C([H])C(CC)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[NH][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"[O-:10]C([H])/C([H])=C([H])\C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C([H])=C([H])C([H])[O:10]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC1=CC=CC=C1)CCCCCC.[O-:21]C>>CN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]C)CCCCCC 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([NH][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([NH][H])[NH]C7=CC=CC=C7 21=20;20,10=10"
"CC[O:10][H].CC[NH+:21]=[C:20]([O]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21]CC)([O]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[OH:10]C(CC)/C([H])=C(C)\C([H])[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C([H])C(C)=C([H])C(CC)[OH+:10]1 10=20;20,21=21"
"C(C([O-:21])[H])(C(O[C:20](=[O:10])OCCCCCC)CC)CCCCCC>>C1(C(O[C:20]([O-:10])([O:21]C1[H])OCCCCCC)CC)CCCCCC 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[Cl:21])C)C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])C)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[H][S+:10](C(C)C(C)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S][H].[Cl-]>>[Cl-].[H][S:10]C(C)C(C)[O][C:20]([S][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH](C)C([H])[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][S:10]C(C)C([H])C([H])[S][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])C([H])[S]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]([NH:21]CC)([NH]C)[NH]CC.[Cl-]>>[Cl-].[H][NH:10][H].CC[NH+:21]=[C:20]([NH]C)[NH]CC 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C)C([H])[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C)C([H])[NH]1 10=20;20,21=21"
"[K][O+:21]([C:20]([O-:10])(OC)OC)CCCCCC>>[K][O:21]CCCCCC.[C:20](=[O:10])(OC)OC 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C)C([H])[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C)C([H])[NH]1 10=20;20,21=21"
"[H][O:10][H].[H][O+:21]=[C:20]([S][H])[S][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21][H])([S][H])[S][H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C(CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C)C(CC)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([Na])C([H])C(C)/C(C)=C(C)\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)=C(C)C(C)C([H])[O+:10]1([Na]) 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH](CC)[O]1 10=20;20,21=21"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])C)[H]>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)C)[H].[O-:21][H] 10=20;20,21=21"
